US08541417B2
To a suspension of 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one (25 mg, 0.116 mmol), N-cyclopropyl-4-(piperazin-1-yl)benzamide (35.6 mg, 0.145 mmol) and (cyanomethyl)trimethylphosphonium iodide (45.2 mg, 0.186 mmol) in Propiononitrile (Volume: 1.0 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.101 mL, 0.581 mmol) at 23° C. The reaction was stirred at 95° C. for 6 hr. The suspension was cooled to 23° C., filtered, rinsed with ACN (3×1 mL) and dried in vacuo to provide N-cyclopropyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide (0.0355 g, 0.080 mmol, 69.1% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.47-0.59 (m, 2 H) 0.59-0.70 (m, 2 H) 2.52-2.59 (m, 4 H) 2.79 (tq, J=7.36, 3.94 Hz, 1 H) 3.19-3.31 (m, 4 H) 3.62 (s, 2 H) 6.70-6.78 (m, 1 H) 6.93 (d, J=9.09 Hz, 2 H) 7.07 (dd, J=3.66, 1.64 Hz, 1 H) 7.58 (d, J=1.77 Hz, 1 H) 7.66-7.68 (m, 1 H) 7.68-7.73 (m, 2 H) 8.14 (d, J=4.29 Hz, 1 H) 8.36 (d, J=1.77 Hz, 1 H) 11.62 (br. s., 1 H). ESI-MS: m/z 443.4 (M+H)+. mp=269.9-271.7° C.

reactant | 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one | 0.116 mmol, 25 mg | OCC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C11H9N3O2
reactant | N-cyclopropyl-4-(piperazin-1-yl)benzamide | 0.145 mmol, 35.6 mg | C1(CC1)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C14H19N3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.186 mmol, 45.2 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.581 mmol, 0.101 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Propiononitrile | 1.0 mL | C(CC)#N | C3H5N
product | N-cyclopropyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide | 0.080 mmol, 0.0355 g, 69.1% yield | C1(CC1)NC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1)=O | C25H26N6O2
